US07691892B2
4-(5-{2-[5-(3-chlorophenyl)-2H-tetrazol-2-yl]propyl}-4-methyl-4H-1,2,4-triazol-3-yl)pyridine
Oxalylchloride (2M in DCM, 0.28 mL, 0.55 mmol) was dropwise added during 5 minutes to a solution of 3-[5-(3-chlorophenyl)-2H-tetrazol-2-yl]-N-methylbutanamide (140 mg, 0.5 mmol) and 2,6-lutidine (0.12 mL, 1 mmol) in DCM (5 mL) at 0° C. The mixture was stirred at 0° C. for 1 h and isonicotinic acid hydrazide (103 mg, 0.75 mmol) was added. DCM was evaporated after 4 h stirring at r.t. Sat. aq. NaHCO3 (10 mL) was added to the residue and the mixture was refluxed for 16 h. The reaction was allowed to attain r.t., followed by extracted with CHCl3 (3×20 mL). The combined organic phases were dried (MgSO4), concentrated and purified by prep HPLC to yield the title compound (3 mg, 2%).

reactant | Oxalylchloride | 0.55 mmol, 2M, 0.28 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-[5-(3-chlorophenyl)-2H-tetrazol-2-yl]-N-methylbutanamide | 0.5 mmol, 140 mg | ClC=1C=C(C=CC1)C=1N=NN(N1)C(CC(=O)NC)C | C12H14ClN5O
reactant | 2,6-lutidine | 1 mmol, 0.12 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | isonicotinic acid hydrazide | 0.75 mmol, 103 mg | C(C1=CC=NC=C1)(=O)NN | C6H7N3O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-(5-{2-[5-(3-chlorophenyl)-2H-tetrazol-2-yl]propyl}-4-methyl-4H-1,2,4-triazol-3-yl)pyridine | 3 mg, 2% | ClC=1C=C(C=CC1)C=1N=NN(N1)C(CC=1N(C(=NN1)C1=CC=NC=C1)C)C | C18H17ClN8
